US07956060B2
4-(2-Aminoethyl)-2-methoxypyridine dihydrochloride (225 mg, 1.00 mmol) synthesized in Reference Example 12 was mixed with 48% hydrobromic acid (3.0 mL) and acetic acid (3.0 mL), and the mixture was heated under reflux for 4 hours. The reaction mixture was concentrated under reduced pressure to give 4-(2-aminoethyl)-2-hydroxypyridine dihydrobromide (150 mg, yield 50%).

reactant | 4-(2-Aminoethyl)-2-methoxypyridine dihydrochloride | 1.00 mmol, 225 mg | Cl.Cl.NCCC1=CC(=NC=C1)OC
reactant | hydrobromic acid | 3.0 mL | Br | BrH
solvent | acetic acid | 3.0 mL | C(C)(=O)O | C2H4O2
product | 4-(2-aminoethyl)-2-hydroxypyridine dihydrobromide | 150 mg, yield 50% | Br.Br.NCCC1=CC(=NC=C1)O | InChI=1S/C7H10N2O.2BrH/c8-3-1-6-2-4-9-7(10)5-6;;/h2,4-5H,1,3,8H2,(H,9,10);2*1H
